US07276606B2
Cyclopentyl-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, cyclopentanecarboxylic acid chloride, and indole according to GP 2. Yield, 10%. 1H-NMR (DMSO-d6): δ=1.28-1.43 (m, 2H), 1.47-1.75 (m, 4H), 1.90-2.04 (m, 2H), 3.14-3.26 (m, 1H), 6.07 (s, br., 1H), 6.95-7.10 (m, 3H), 7.16 (td, J=7.6 Hz, J=1.6 Hz, 1H), 7.20-7.31 (m, 3H), 7.35-7.42 (m, 1H), 7.44-7.52 (m, 2H), 7.66 (d, J=7.4 Hz, 1H), 7.93 (d, J=7.4 Hz, 1H), 8.01 (d, J=7.5 Hz, 1H), 10.61 (s, 1H); (+)-ESI-MS: m/z=393 [M+H]+, 276 [M-indole+H]+, 180.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | cyclopentanecarboxylic acid chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | Cyclopentyl-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | C1(CCCC1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C27H24N2O
